US08809371B2
Triethylamine (32 μl), n-butyl acrylate (33 μl), tri(o-toluoyl)phosphine (24 mg), and palladium acetate (5 mg) were added to a tube containing a DMF (3 ml) solution containing 3-bromo-N-methyl-5-nitropyridin-2-amine (45 mg) and the tube was sealed, followed by stirring at 100° C. for 8 hours. The reaction solution was adjusted to room temperature, and n-butyl acrylate (33 μl), tri(o-toluoyl)phosphine (24 mg), and palladium acetate (5 mg) were added again to the tube and the tube was sealed, followed by stirring at 100° C. for 9 hours. Further, the reaction solution was adjusted to room temperature, and water was added, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=16:1 to 3:1), and a yellow solid of n-butyl 3-(2-(methylamino)-5-nitropyridin-3-yl)acrylate (44 mg) was thus obtained.

reactant | Triethylamine | 32 μl | C(C)N(CC)CC | C6H15N
reactant | n-butyl acrylate | 33 μl | C(C=C)(=O)OCCCC | C7H12O2
reactant | tri(o-toluoyl)phosphine | 24 mg | C=1(C(=CC=CC1)C(=O)P(C(=O)C=1C(=CC=CC1)C)C(=O)C=1C(=CC=CC1)C)C | C24H21O3P
reactant | 3-bromo-N-methyl-5-nitropyridin-2-amine | 45 mg | BrC=1C(=NC=C(C1)[N+](=O)[O-])NC | C6H6BrN3O2
reactant | n-butyl acrylate | 33 μl | C(C=C)(=O)OCCCC | C7H12O2
reactant | tri(o-toluoyl)phosphine | 24 mg | C=1(C(=CC=CC1)C(=O)P(C(=O)C=1C(=CC=CC1)C)C(=O)C=1C(=CC=CC1)C)C | C24H21O3P
catalyst | palladium acetate | 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium acetate | 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | n-butyl 3-(2-(methylamino)-5-nitropyridin-3-yl)acrylate | 44 mg | CNC1=NC=C(C=C1C=CC(=O)OCCCC)[N+](=O)[O-] | C13H17N3O4
